US07977344B2
2-(Butyloxy)-9-[2-(2,2-dimethyltetrahydro-2H-pyran-4-yl)ethyl]-8-(methyloxy)-9H-purin-6-amine
A mixture of 2-(butyloxy)-8-(methyloxy)-1H-purin-6-amine trifluoroacetate (0.2 g, 0.569 mmol) and anhydrous potassium carbonate (0.315 g, 2.277 mmol) in DMF was heated at 60° C. for 1 hour. The mixture was cooled to room temperature and 4-(2-bromoethyl)-2,2-dimethyltetrahydro-2H-pyran (0.151 g, 0.683 mmol) was added and the mixture heated at 50° C. for 18 hours. The mixture was quenched with water (2 ml) and extracted with DCM (2×5 ml). The DCM was separated through a hydrophobic frit and evaporated by blowing down under a stream of nitrogen. Addition of DMSO:MeOH (1:1) gave a precipitate which was collected by filtration, washed with methanol and dried in vacuo to give the title compound (29 mg).

reactant | 2-(butyloxy)-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | 0.569 mmol, 0.2 g | FC(C(=O)O)(F)F.C(CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | potassium carbonate | 2.277 mmol, 0.315 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-bromoethyl)-2,2-dimethyltetrahydro-2H-pyran | 0.683 mmol, 0.151 g | BrCCC1CC(OCC1)(C)C | C9H17BrO
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(Butyloxy)-9-[2-(2,2-dimethyltetrahydro-2H-pyran-4-yl)ethyl]-8-(methyloxy)-9H-purin-6-amine | 29 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1CC(OCC1)(C)C)OC)N | C19H31N5O3
